US07786132B2
1-(5-Nitrobenzo[b]thiophen-2-yl)ethanone
A mixture of sulfur (90 mg, 2.96 mmol), sodium hydrosulfide hydrate (250 mg, 4.44 mmol) and sodium carbonate (330 mg, 2.37 mmol) in N-methylpyrrolidine (10 mL) was stirred at rt for 1 h. A solution of 2-fluoro-5-nitrobenzaldehyde (500 mg, 2.96 mmol) in N-methylpyrrolidine (2 mL) was added dropwise and the mixture was stirred at rt for 3 h. Chloroacetone (270 mg, 2.96 mmol) was added slowly with cooling and the resulting mixture was stirred at rt overnight. The reaction was quenched with 20 mL of water and sodium hydroxide (1 M) was added to adjust pH to 11. The mixture was extracted with diethyl ether (3×50 mL) and the combined organic layer was washed with brine (100 mL), dried over sodium sulfate and filtered. After removing the solvent in vacuo the product was recrystallized from methanol to give a yellow solid (400 mg, 62%). MS (M+H)+ 222.

reactant | sulfur | 2.96 mmol, 90 mg | [S] | S
reactant | sodium hydrosulfide hydrate | 4.44 mmol, 250 mg | O.[SH-].[Na+]
reactant | sodium carbonate | 2.37 mmol, 330 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluoro-5-nitrobenzaldehyde | 2.96 mmol, 500 mg | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | Chloroacetone | 2.96 mmol, 270 mg | ClCC(C)=O | C3H5ClO
solvent | N-methylpyrrolidine | 10 mL | CN1CCCC1 | C5H11N
solvent | N-methylpyrrolidine | 2 mL | CN1CCCC1 | C5H11N
product | 1-(5-Nitrobenzo[b]thiophen-2-yl)ethanone | 400 mg, 62% | [N+](=O)([O-])C1=CC2=C(SC(=C2)C(C)=O)C=C1 | C10H7NO3S
